US08871753B2
Step C. 3-{[4-(Isopropylsulfonyl)-3-nitrophenyl]ethynyl}aniline
4-Bromo-1-(isopropylsulfonyl)-2-nitrobenzene (390 mg, 1.3 mmol), bis(triphenylphosphine)palladium(II) chloride (60 mg, 0.08 mmol) and copper(I) iodide (20 mg, 0.1 mmol) were stirred in tetrahydrofuran (5 mL) with triethylamine (250 μL, 1.8 mmol). 3-Ethynylaniline (100 μL, 1.0 mmol) was added and the mixture was stirred at rt for 1.5 hours. The mixture was evaporated, diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The extracts were dried over sodium sulfate, filtered and evaporated to give the desired compound (250 mg, 60%). LCMS for C17H17N2O4S (M+H)+: m/z=345.1.

reactant | 4-Bromo-1-(isopropylsulfonyl)-2-nitrobenzene | 1.3 mmol, 390 mg | BrC1=CC(=C(C=C1)S(=O)(=O)C(C)C)[N+](=O)[O-] | C9H10BrNO4S
reactant | triethylamine | 1.8 mmol, 250 μL | C(C)N(CC)CC | C6H15N
reactant | 3-Ethynylaniline | 1.0 mmol, 100 μL | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.08 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.1 mmol, 20 mg | [Cu]I
product | 3-{[4-(Isopropylsulfonyl)-3-nitrophenyl]ethynyl}aniline | 250 mg, 60% | C(C)(C)S(=O)(=O)C1=C(C=C(C=C1)C#CC=1C=C(N)C=CC1)[N+](=O)[O-] | C17H16N2O4S
